US03931177
A solution of 3-(2-hydroxy-5-nitrobenzoyl)propionic acid (5.5 g) in ammonium hydroxide solution (5N; 100 ml) was added to a stirred, boiling solution of ferrous sulphate heptahydrate (45 g) in water (200 ml). Stirring under reflux was continued for a further 60 minutes, ammonium hydroxide solution was added until the mixture had pH 9, the reaction mixture filtered through Kieselguhr and the filtrate evaporated to dryness. The solid residue was crystallised from ethanol to give pale yellow needles of 3-(5-amino-2-hydroxybenzoyl)propionic acid (2.2 g, 46%, m.p. 158°-160°C; M+, 209, M, 209).

reactant | 3-(2-hydroxy-5-nitrobenzoyl)propionic acid | 5.5 g | OC1=C(C(=O)CCC(=O)O)C=C(C=C1)[N+](=O)[O-] | C10H9NO6
solvent | ammonium hydroxide | 5N, 100 ml | [OH-].[NH4+]
solvent | water | 200 ml | O | H2O
product | 3-(5-amino-2-hydroxybenzoyl)propionic acid | 2.2 g, 46% | NC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C10H11NO4
